US05075299
5-Hydroxy-2-methyl-4-pyrone
5-p-Methoxybenzyloxy-2-methyl-4-pyrone, 10 g, was dissolved in 10 ml of anisole and 15 ml of trifluoroacetic acid was dropwise added to the solution under ice cooling. After stirring at the same temperature for 3 hours, the mixture was concentrated under reduced pressure. The concentrate was separated and purified by flash column chromatography (eluting solution; chloroform: methanol=20:1) using Wako Gel C-300 (200 g) to give 2.4 g of the title compound.

reactant | 5-p-Methoxybenzyloxy-2-methyl-4-pyrone | COC1=CC=C(COC=2C(C=C(OC2)C)=O)C=C1 | C14H14O4
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 10 ml | C1(=CC=CC=C1)OC | C7H8O
product | 5-Hydroxy-2-methyl-4-pyrone | 2.4 g | OC=1C(C=C(OC1)C)=O | C6H6O3
